US09255110B2
A mixture of 4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-7-carboxylic acid ethyl ester (300 mg) and phosphorus oxychloride (1 mL) was heated at 160° C. for 15 minutes in a microwave reactor. The resulting mixture was cooled and poured into a mixture of ice-water and ethyl acetate. The organic layer was separated, washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography (hexane/EtOAc, 90/10) to afford 120 mg of 4-chloro-pyrrolo[2,1-f][1,2,4]triazine-7-carboxylic acid ethyl ester containing 4-chloro-pyrrolo[2,1-f][1,2,4]triazine-7-carbonitrile.

reactant | 4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-7-carboxylic acid ethyl ester | 300 mg | C(C)OC(=O)C1=CC=C2C(NC=NN21)=O | C9H9N3O3
reactant | phosphorus oxychloride | 1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-pyrrolo[2,1-f][1,2,4]triazine-7-carboxylic acid ethyl ester | 120 mg | C(C)OC(=O)C1=CC=C2C(=NC=NN21)Cl | C9H8ClN3O2
